### PR TITLE
[Merged by Bors] - fix: rm off-by-one error in finset.eventually_constant_prod

### PR DESCRIPTION
**Pull request by ScottCarnahan**
The hypothesis is that the function is trivial for all indices `\geq N`, and the original conclusion is that for `n \geq N` the product up to `n` is equal to the product up to `N` (namely `range N+1`), but we can strengthen this by removing the index `N` part.  This change is especially important for simplifying products and sums with only the initial term nontrivial.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 1]
```diff
@@ -1990,9 +1990,9 @@ theorem cauchySeq_prod_of_eventually_eq {u v : ℕ → E} {N : ℕ} (huv : ∀ n
   suffices ∀ n ≥ N, d n = d N by exact (tendsto_atTop_of_eventually_const this).cauchySeq.mul hv
   intro n hn
   dsimp
-  rw [eventually_constant_prod _ hn]
+  rw [eventually_constant_prod _ (Nat.add_le_add_right hn 1)]
```
Comment (b-mehta) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1993]:
```suggestion
  rw [eventually_constant_prod _ (add_le_add_right hn 1)]
```

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 2]
```diff
@@ -1990,9 +1990,9 @@ theorem cauchySeq_prod_of_eventually_eq {u v : ℕ → E} {N : ℕ} (huv : ∀ n
...
   intro m hm
-  simp [huv m hm]
+  simp [huv m (Nat.le_of_lt hm)]
```
Comment (b-mehta) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1995]:
```suggestion
  simp [huv m (le_of_lt hm)]
```

**Review by b-mehta — APPROVED** [review]
bors d+

This looks like a direct generalisation to me, nice! You can remove the `Nat.` in both cases, if you'd like.

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/Basic.lean:1993]: Should all the `+ 1`s in this function be replaced too?

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/Basic.lean:1995]:
```suggestion
  simp [huv m hm.le]
```

Comment (b-mehta) [reply Mathlib/Analysis/Normed/Group/Basic.lean:1995]: Eric, I'm not sure if you tried this suggestion, but it doesn't work for me.

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: I did not try it. Weird.

File: Mathlib/Algebra/BigOperators/Basic.lean [hunk 3]
```diff
@@ -1232,7 +1232,7 @@ theorem prod_range_succ' (f : ℕ → β) :
 
 @[to_additive]
 theorem eventually_constant_prod {u : ℕ → β} {N : ℕ} (hu : ∀ n ≥ N, u n = 1) {n : ℕ} (hn : N ≤ n) :
```
Comment (tb65536) [inline Mathlib/Algebra/BigOperators/Basic.lean:1234]: Can `hu` be generalized to `∀ n > N, u n = 1`?

Comment (tb65536) [reply Mathlib/Algebra/BigOperators/Basic.lean:1234]: Oh, nevermind. I forgot that `range N` does not include `N`.
